Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
___ Left hemiarthroplasty

 
History of Present Illness:
___ M PMhx DM, HTN, CAD s/p MI x3 and stents at ___, (DES to 
proximal LAD (___) c/b stent restenosis requiring repeat DES 
(___), s/p cath on ___ (no obstructive CAD), AV 
endocarditis with frequent falls due to neuropathy s/p 
mechanical fall today. The patient was at work when he turned 
around and fell, landed on his left side. He denied prodromal 
dizziness or lightheadedness. No chest pain or shortness of 
breath. He complained of left hip pain and left ankle/foot pain 
he stated he was unable to weight-bear after falling. No head or 
neck injury. No back pain that is different from his baseline. 
Xray at ___ showed femoral neck fx. At ___ had glucose 
of 484 and was given 10 units SC insulin and one liter of NS. 
___ labs: INR 1, cbc 9.9>10.3/30.1<177, chem 
___. He was transferred to ___ per 
___ Ortho for further Mx. He had a recent ___ admission 
for UTI and was on bactrim at time presenation.  
In the ED, initial VS were: pain 6 98. 80 146/84 18 96% on RA. 
CXR and ankle xray here were wnl. Labs were notable for Cr 1.6, 
up from 1.0 few days ago, Na 127, stable Hct, and normal coags. 
___ was 305 and he got 1L IVF. Given dilaudid 1mg in ED with some 
relief. Given his elevated glucose and cardiac catheterization 
on ___, orthopedics requested admission to medicine.  
VS on transfer: 98 77 123/64 16 95% on RA.  
Currently, patient continued to have pain on any movement of his 
left leg but was otherwise stable.  
 
Past Medical History:
Past Medical History:
1) status post left great toe debridement ___ 
2) CAD s/p MI in ___ treated with a stent which restenosed 
and was redone in ___. Neg stress MIBI 6 months ago.
3) Lumbar fusion in ___ at ___, ?L4-L5
4) DM 
5) Gastroparesis
6) HTN

- CAD s/p MI x 2
---> Anterior MI s/p proximal LAD stent ___
---> ISR ___ requiring restenting
- DM2 c/b neuropathy
- AV endocarditis in ___
- Chronic back pain
- HTN

 
Social History:
___
Family History:
NC
 
Physical Exam:
On admission:
98 128/65 79 18 93 ra  
GENERAL: well appearing  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM  
NECK: supple, no LAD, JVD:  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored, 
no accessory muscle use  
HEART: RRR, systolic ejection murmur loudest in RUSB, nl S1-S2  
ABDOMEN: normal bowel sounds, soft, non-tender, non-distended, 
no rebound or guarding, no masses  
EXTREMITIES: no edema, 2+ pulses radial and dp, exam limited in 
LLE by pain  
NEURO: awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, Loss of proprioception and sensation in both 
feet bilaterally  

On discharge:
Vitals: T-99.5 161/73 (128-161) 94 (74-94) RR-18 96%RA FSBG 232 
I/Os 2.4L/1.4L
GENERAL: well appearing male, oriented X 3  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM  
NECK: supple, no LAD, JVD 
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored, 
no accessory muscle use  
HEART: RRR, systolic ejection murmur loudest in RUSB, nl S1-S2  
ABDOMEN: normal bowel sounds, soft, non-tender, non-distended, 
no rebound or guarding, no masses  
EXTREMITIES: no edema, 2+ pt pulse, 1+ dp, L lateral leg with 
dressing c/d/i
NEURO: awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, Loss of proprioception and sensation in both 
feet bilaterally 

 
Pertinent Results:
Labs on Admission:

___ 09:50PM BLOOD WBC-9.1 RBC-3.53* Hgb-10.3* Hct-31.0* 
MCV-88 MCH-29.3 MCHC-33.4 RDW-13.8 Plt ___
___ 09:50PM BLOOD ___ PTT-30.0 ___
___ 09:50PM BLOOD Glucose-271* UreaN-25* Creat-1.6* Na-127* 
K-4.9 Cl-93* HCO3-27 AnGap-12
___ 06:35AM BLOOD Calcium-8.6 Phos-2.6* Mg-1.9
___ 06:35AM BLOOD TSH-0.33
___ 06:35AM BLOOD Cortsol-23.6*

Studies:
___ CXR:  No evidence of acute disease.
___ L ankle xray: No evidence of fracture.
___ Hip xray: Unchanged appearance of the complete left femoral 
neck fracture
with partial displacement and valgus angulation of the distal 
component.  The
joint space is preserved.  No traumatic changes at the level of 
the right hip.
___ Hip intraop:  A single frontal view performed in the 
operating
room demonstrates a left hip hemiarthroplasty with an overlying 
surgical tool.
Please refer to the operative note for full procedure details 
and
recommendations.

Micro:
**FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

Labs on Discharge:

___ 07:30AM BLOOD WBC-8.9 RBC-3.32* Hgb-9.7* Hct-29.8* 
MCV-90 MCH-29.2 MCHC-32.5 RDW-14.0 Plt ___
___ 07:30AM BLOOD Glucose-192* UreaN-18 Creat-0.9 Na-129* 
K-5.1 Cl-96 HCO3-24 AnGap-14
___ 07:30AM BLOOD Calcium-8.5 Phos-2.5* Mg-2.___ M PMHx three vessel disease s/p proximal LAD stent, AV 
endocarditis p/w chest pain at rest, initially thought to have 
NSTEMI now s/p cardiac catheterization without any intervention 
or evidence of acute flow limiting blockage, likely consistent 
with microvascular disease progression, p/w fall with L femoral 
neck fracture now s/p hemiarthroplasty.  
.
# Left femoral neck fracture: Neurovascularly intact on exam. 
Pain well controlled. ___ underwent L hemiarthroplasty and had 
acute pain service place L fascia iliaca nerve catheter w/o 
complication. Pt's pain then managed with ropivacaine through 
cath, and PO dilaudid/acetaminophen. On ___, patient's pain was 
less severe and pain regimen was switched to PO oxycodone. Ortho 
recommended continuing 3 weeks postop (after acute pain 
discontinued groin cath), ___ consult with patient weight bearing 
as tolerated, and f/u with ___ in 2 weeks
. 
# ___: baseline 0.9-1.1, unclear etiology. Cr peaked at 1.6. ___ 
be prerenal from decreased POs. Improved to 1.3 with IVF. Urine 
lytes showed  FENa of 0.8% supporting prerenal process. 
Lisinopril was held and as Cr improved to baseline 0.9 and 
pressures were 140-160s, lisinopril 5mg PO was restarted on 
___.

#Hyponatremia: Patient with normal Na baseline. Patient 
presented with low Na to 127 and this was likely due to 
hypotonic hypovolemia (FENa <1%) given pt made NPO while 
awaiting surgery.  TSH and Cortisol checked- both unremarkable. 
Patient received 3L IVF postop and sodium stable and improved 
but not back to baseline. Unclear if SIADH component secondary 
to pain and surgery. This needs to be monitored at rehab and as 
outpatient. 

# CAD: Patient has extensive prior hx but recent cath in setting 
of elevated enzymes did not show obstructive lesion. Thought to 
be likely from progression of microvascular disease.  Continued 
home asa, pravastatin, atenolol, and Imdur.  
.
# Staph epi UTI: Completed 10d course of bactrim yesterday. Most 
recent urine culture on ___ negative. Never had symptoms but 
thogut to be from neurogenic bladder.  
. 
# HTN: stable; continued atenolol and held lisinopril per above. 
 
.
# DM2: stable. Continued lanutus with HISS
.  
# Depression: stable; continued celexa. SW saw patient to 
provide emotional support.
# Chronic low back pain: stable. Continued gabapentin at lower 
dose due to ___  

Transitional issues:
-Pt will continue Lovenox until ___, (3 wks total after 
surgery)
-Pt will follow-up with ortho in two weeks
-Pt will continue ___ at rehab, pain control w/PO oxycodone
-Pt will follow-up with PCP after ___ from rehab
-Pt is to have sodium monitored given new hyponatremia
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Citalopram 40 mg PO DAILY 
3. Gabapentin 400 mg PO TID 
4. Glargine 23 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
5. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
6. Lisinopril 5 mg PO DAILY 
7. Nitroglycerin SL 0.3 mg SL PRN chest pain 
Take up to 3 tabs 5 minutes apart, and if chest paincontinues 
call your cardiologist 
8. Pravastatin 80 mg PO DAILY 
9. Alendronate Sodium 70 mg PO QSUN 
10. Atenolol 50 mg PO DAILY 
11. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q 8H 

 
Discharge Medications:
1. Enoxaparin Sodium 40 mg SC Q 24H 
Stop on ___. 
RX *enoxaparin 40 mg/0.4 mL 40 mg SC Q24H Disp #*20 Syringe 
Refills:*0
2. Alendronate Sodium 70 mg PO QSUN 
3. Aspirin 325 mg PO DAILY 
4. Atenolol 50 mg PO DAILY 
5. Citalopram 40 mg PO DAILY 
6. Gabapentin 400 mg PO TID 
7. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
8. Nitroglycerin SL 0.3 mg SL PRN chest pain 
9. Acetaminophen 650 mg PO Q6H:PRN pain 
max 4 g daily 
10. Docusate Sodium 100 mg PO BID 
11. Polyethylene Glycol 17 g PO DAILY 
stop when bowel movements are regular. 
12. Senna 1 TAB PO BID 
hold for diarrhea 
13. Pravastatin 80 mg PO DAILY 
14. Glargine 26 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
15. Lisinopril 5 mg PO DAILY 
16. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left femoral neck fracture
Acute kidney injury
Diabetes mellitus
Hyponatremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
You were admitted for a left hip fracture. Your surgery went 
well and our physical therapists recommended rehab for your 
recovery. We gave you a unit of blood and and IV fluids and your 
kidney function improved back to baseline. Because of this, we 
restarted your lisinopril.

Your glargine was increased from 23 units to 26 units to better 
control your blood glucose while in the hospital.

Please follow-up with orthopaedics in two weeks, and also 
continue to take your enoxaparin [Lovenox] for a total of three 
weeks after your surgery until ___.

Please follow-up with your PCP after leaving the rehab facility. 

Because of your constipation, START senna, colace and miralax 
until you are regular again. Your narcotic pain medications 
cause constipation. Also stay hydrated and stay physically 
active to prevent further constipation.

Your sodium level was low throughout your hospitalization which 
is new. You are to have this monitored at rehab.
 
Followup Instructions:
___